US06461876B1
(a) Synthesis of 2,2,2-trifluoroethyl 3-hydroxybenzoate (47)
Into a 250 mL round bottom flask equipped with magnetic stirrer and heating mantle was added 10 parts of 3-hydroxy benzoic acid, 100 parts of 2,2,2-trifluoroethanol and 0.5 parts of concentrated sulfuric acid. The reaction mixture was heated at 95° C. for 48 hours. The solvent was evaporated under reduced pressure and the solid material was dissolved in 250 mL of ethyl acetate. The organic layer was washed with 250 mL of water, 250 mL 5% solution of sodium bicarbonate in 100 mL of water and finally with 250 mL of water. The ethyl acetate layer was dried over anhydrous sodium sulfate and the solvent was evaporated under reduced pressure, yield 4.1 parts. TLC on silica gel plate showed a single spot. The structure was confirmed on the basis of 1H NMR. The reaction proceeded as follows:

reactant | 3-hydroxy benzoic acid | OC=1C=C(C(=O)O)C=CC1 | C7H6O3
reactant | 2,2,2-trifluoroethanol | FC(CO)(F)F | C2H3F3O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 2,2,2-trifluoroethyl 3-hydroxybenzoate | OC=1C=C(C(=O)OCC(F)(F)F)C=CC1 | C9H7F3O3
